US06589970B2
2-Butyl-benzofuran-3-carbonyl-chloride (3 mmol), prepared in step 2 of Example 3, in 25 mL of anhydrous THF was added under nitrogen dropwise over 1 h to a solution of 6-(benzylamino-methyl)-naphthalen-2-ol (0.71 g, 2.7 mmol), prepared in the previous step, and triethylamine (0.376 mL, 2.7 mmol) in 75 mL of anhydrous THF at room temperature. After the addition the reaction was stirred at room temperature for 20 h (overnight). The solid present was removed by filtration and the filtrate concentrated under reduced pressure to give a brown oil. The oil was dissolved in ethyl acetate and extracted with 1N HCl. The organic layer was dried (MgSO4) and the solvent removed under reduced pressure. Chromatography of the crude oil on 200 g of silica gel (230-400 mesh) using 0%-5% ethyl acetate in methylene chloride as the eluent gave 2-butyl-benzofuran-3-carboxylic acid benzyl-(6-hydroxy-naphthalen-2-ylmethyl)-amide (0.8164 g, 65%) as a light yellow solid, mp 160-164° C.

reactant | 2-Butyl-benzofuran-3-carbonyl-chloride | 3 mmol | C(CCC)C=1OC2=C(C1C(=O)Cl)C=CC=C2 | C13H13ClO2
reactant | 6-(benzylamino-methyl)-naphthalen-2-ol | 2.7 mmol, 0.71 g | C(C1=CC=CC=C1)NCC=1C=C2C=CC(=CC2=CC1)O | C18H17NO
reactant | triethylamine | 2.7 mmol, 0.376 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyl-benzofuran-3-carboxylic acid benzyl-(6-hydroxy-naphthalen-2-ylmethyl)-amide | 0.8164 g, 65% | C(C1=CC=CC=C1)N(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)CC2=CC1=CC=C(C=C1C=C2)O | C31H29NO3
